* Example JTL Basic

.model jmod jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rN=16, icrit=0.1mA)

b01     3     7     jmod    area=2.16
RS1     3     7     5.23ohm  *Bc=1
b02     6     8     jmod    area=2.16
RS2     3     7     5.23ohm  *Bc=1
L01        4          3          2p        
L02        3          2          2.425p    
L03        2          6          2.425p    
L04        6          5          2.031p    
LP01       0          7          0.086p    
LP02       0          8          0.096p    
LPR01      2          1          0.278p    
LRB01      7          9          0.086p    
LRB02      8          10         0.086p    
rB01       9          3          5.23      
rB02       10         6          5.23      
ROUT       5          0          2      

iB01       0          1          pwl(0ps      0uA 5ps 280uA)
*FIX
VIN        4          0          pwl(0 0mV 300ps 0mV 302.5ps 827.13uA 305ps 0mV 600ps 0mV 602.5ps 827.13uV 605ps 0mV)

.tran 1ps 1000ps 0ps 
.FILE test.csv
.print phase b01
.print phase b02

.end