**** **** **** **** **** **** **** **** **** **** **** 
*JSIM control file for CADENCE by kameda@cq.jp.nec.com
**** **** **** **** **** **** **** **** **** **** ****

*JSIM model
**HSTP**
.model jjmod jj(Rtype=1, Vg=2.8mV, Cap=0.064pF, R0=100ohm, Rn=17ohm, Icrit=0.1mA)
**OPEN**
*.model jjmod jj(Rtype=1, Vg=2.8mV, Cap=0.218pF, R0=200ohm, Rn=17ohm, Icrit=0.1mA)

*RMIN=6
*RMAX=30
*BMIN=1
*** netlist file ***
**** **** **** **** **** **** **** ****+
*** Lib : adp_matsuoka_lib
*** Cell: MUX_clked_ver2test
*** View: schematic
*** Jan 21 15:01:41 2025
**** **** **** **** **** **** **** ****

*** ijtl
.subckt ijtl          1          2
***       din      dout
B1     3     4               jjmod area=2.170
RS1     3     4               5.207ohm  *SHUNT=11.300
LP2                4         0   0.198pH fcheck
L2                 3         2   1.976pH fcheck
L1                 1         3   4.534pH fcheck
.ends

*** jtl
.subckt jtl          1          2        11
***       din      dout
B1     5     6               jjmod area=2.160
RS1     5     6               5.231ohm  *SHUNT=11.300
B2     7     8               jjmod area=2.160
RS2     7     8               5.231ohm  *SHUNT=11.300
LP1                6         0   0.096pH fcheck
LP2                8         0   0.099pH fcheck
L1                 9         5   2.288pH fcheck
L3                 7         2   1.963pH fcheck
L2                 5         7   4.506pH fcheck
LPR1              10         9   0.177pH fcheck
LPIN               1         9   0.317pH fcheck
R1                11        10   8.32ohm
.ends

*** sink
.subckt sink          1         6
***       din
B1    12    13               jjmod area=2.170
RS1    12    13               5.207ohm  *SHUNT=11.300
LP1               13         0   0.130pH fcheck
L1                14        12   2.272pH fcheck
L2                12        15   4.766pH fcheck
LPR1               5        14   0.177pH fcheck
LPIN               1        14   0.317pH fcheck
R2                15         0   4.08ohm
R1                 6         5   8.32ohm
.ends


*** MUX_clked_ver3
.subckt MUX_clked_ver3          1          2          3          4          5          6          7          8        70
***         A         B         C    ILFBin   ILFBout       clk     reset       set
l3    47    40               3.821pH

L1    49    47               4.137pH
*SYN=1
L2    39    40               4.137pH
*SYN=1


L4    59    54               2.436pH
*SYN=2
L5    27    28               2.436pH
*SYN=2

L6    54    55               2.489pH
*SYN=3
L7    28    33               2.489pH
*SYN=3

L8    60    52               1.866pH
*SYN=4
L9    26    29               1.866pH
*SYN=4

L10    52    53               1.776pH
*SYN=5
L11    29    32               1.776pH
*SYN=5

L12    21    22              11.186pH
*SYN=6
L13    19    10              11.186pH
*SYN=6

L14    45    42               1.104pH

L15    42    37               3.473pH

L16    37     3               1.892pH

L17    24    17               2.726pH

L18    17    13               0.420pH

L19    13    14               2.769pH
*SYN=7
L20    16    13               2.769pH
*SYN=7

L21    22    11               0.013pH
*SYN=8
L22     9    10               0.013pH
*SYN=8

L23    11    12               0.815pH
*SYN=9
L24    15     9               0.815pH
*SYN=9

L25    20    21               0.016pH
*SYN=10
L26    18    19               0.016pH
*SYN=10

L27   121    21               0.017pH
L28   119    19               0.017pH


llfb     4     5              32.618pH

LP20              23         0   0.138pH fcheck
LPR5              25        24   0.179pH fcheck
LPCLK              6        24   0.380pH fcheck
LPB                2        26   0.951pH fcheck
LPRST              7        27   0.951pH fcheck
LPR2              30        26   4.700pH fcheck
LPR4              31        27   4.700pH fcheck
LP2               34         0   0.190pH fcheck
LP4               35         0   0.190pH fcheck
LP10              36         0   0.190pH fcheck
LP19              41         0   0.226pH fcheck
LP14              43         0   0.190pH fcheck
LPR6              44        42   4.700pH fcheck
LP16              46         0   0.190pH fcheck
LP15              48         0   0.190pH fcheck
LP13              50         0   0.190pH fcheck
LP1               56         0   0.190pH fcheck
LP3               57         0   0.190pH fcheck
LP9               58         0   0.190pH fcheck
LPR3              61        59   4.700pH fcheck
LPR1              62        60   4.700pH fcheck
LPSET              8        59   0.951pH fcheck
LPA                1        60   0.951pH fcheck
*LPR1              51        49   4.700pH fcheck
*LPR2              38        39   4.700pH fcheck

k1  Llfb    L3               0.181
*FIX

*r1    70    51              16.411ohm
**SYN=11
*r2    70    38              16.411ohm
**SYN=11


r1    70    62               8.810ohm
*SYN=13
r2    70    30               8.810ohm
*SYN=13

r3    70    61               7.156ohm
*SYN=12
r4    70    31               7.156ohm
*SYN=12


r6    70    44               9.784ohm
r5    70    25               9.511ohm

b1    49    56  jjmod area=1.689     
RS1    49    56               6.691ohm  *SHUNT=11.300
*SYN=14
b2    39    34  jjmod area=1.689     
RS2    39    34               6.691ohm  *SHUNT=11.300
*SYN=14

b3    54    57  jjmod area=2.160     
RS3    54    57               5.231ohm  *SHUNT=11.300
*FIX
b4    28    35  jjmod area=2.160     
RS4    28    35               5.231ohm  *SHUNT=11.300
*FIX
b5    55    49  jjmod area=2.384     
RS5    55    49               4.739ohm  *SHUNT=11.300
*SYN=15
b6    33    39  jjmod area=2.384     
RS6    33    39               4.739ohm  *SHUNT=11.300
*SYN=15

b7    47   121  jjmod area=1.129    q 
RS7    47   121              10.005ohm  *SHUNT=11.300
*SYN=16
b8    40    19  jjmod area=1.129     
RS8    40    19              10.005ohm  *SHUNT=11.300
*SYN=16

b9    52    58  jjmod area=2.160     
RS9    52    58               5.231ohm  *SHUNT=11.300
*FIX
b10    29    36  jjmod area=2.160     
RS10    29    36               5.231ohm  *SHUNT=11.300
*FIX
b11    53    20  jjmod area=2.429     
RS11    53    20               4.652ohm  *SHUNT=11.300
*SYN=17
b12    32    18  jjmod area=2.429     
RS12    32    18               4.652ohm  *SHUNT=11.300
*SYN=17

b13    20    50  jjmod area=1.438     
RS13    20    50               7.857ohm  *SHUNT=11.300
*SYN=18
b14    18    43  jjmod area=1.438     
RS14    18    43               7.857ohm  *SHUNT=11.300
*SYN=18

b15    22    48  jjmod area=1.821     
RS15    22    48               6.204ohm  *SHUNT=11.300
*SYN=19
b16    10    46  jjmod area=1.821     
RS16    10    46               6.204ohm  *SHUNT=11.300
*SYN=19

b17    12    45  jjmod area=1.087     
RS17    12    45              10.399ohm  *SHUNT=11.300
*SYN=20
b18    15    45  jjmod area=1.087     
RS18    15    45              10.399ohm  *SHUNT=11.300
*SYN=20

b19    37    41  jjmod area=2.909     
RS19    37    41               3.885ohm  *SHUNT=11.300
b20    17    23  jjmod area=2.150     
RS20    17    23               5.256ohm  *SHUNT=11.300
*FIX

b21    11    14  jjmod area=1.016     
RS21    11    14              11.126ohm  *SHUNT=11.300
*SYN=21
b22     9    16  jjmod area=1.016     
RS22     9    16              11.126ohm  *SHUNT=11.300
*SYN=21

.ends

*** top cell: MUX_clked_ver2test
XI5              ijtl         65          5
XI9              ijtl         15         74
XI7              ijtl         75         29
XI1              ijtl          4         30
XI3              ijtl         25          9
XI6               jtl          5         66         14
XI10              jtl         74         28         14
XI4               jtl          9         26         14
XI8               jtl         29         76         14
XI11              jtl         77         27         14
XI2               jtl         30         78         14
XI12             sink         27         14
XI0        MUX_clked_ver3         78         26         77          8          0         66         28         76         14


Vset              75         0  PWL(0ps 0mv 350ps 0mv 351ps 2.068mv 352ps 0mv 450ps 0mv 451ps 2.068mv 452ps 0mv)
Vreset            15         0  PWL(0ps 0mv 950ps 0mv 951ps 2.068mv 952ps 0mv 1050ps 0mv 1051ps 2.068mv 1052ps 0mv)
*Vset              75         0  PWL(0ps 0mv )
*Vreset            15         0  PWL(0ps 0mv)

VinA               4         0  PWL(0ps 0mv 150ps 0mv 151ps 2.068mv 152ps 0mv 550ps 0mv 551ps 2.068mv 552ps 0mv 750ps 0mv 751ps 2.068mv 752ps 0mv 1150ps 0mv 1151ps 2.068mv 1152ps 0mv)
VinB              25         0  PWL(0ps 0mv 250ps 0mv 251ps 2.068mv 252ps 0mv 650ps 0mv 651ps 2.068mv 652ps 0mv 850ps 0mv 851ps 2.068mv 852ps 0mv 1250ps 0mv 1251ps 2.068mv 1252ps 0mv)
*VinA               4         0  PWL(0ps 0mv 200ps 0mv 201ps 2.068mv 202ps 0mv 250ps 0mv 251ps 2.068mv 252ps 0mv) *setup
*VinA               4         0  PWL(0ps 0mv 200.84ps 0mv 201.84ps 2.068mv 202.84ps 0mv)
*VinA               4         0  PWL(0ps 0mv 150ps 0mv 151ps 2.068mv 152ps 0mv 250.57ps 0mv 251.57ps 2.068mv 252.57ps 0mv)
 
*VinB              25         0  PWL(0ps 0mv)

Vclk              65         0  PULSE(0mv 1.034mv 100ps 1ps 1ps 1ps 100ps )
*Vclk              65         0  PWL(0ps 0mv 199.89ps 0mv 200.89ps 2.068mv 201.89ps 0mv 300ps 0mv 301ps 2.068mv 302ps 0mv 400ps 0mv 401ps 2.068mv 402ps 0mv) *setup
*Vclk              65         0  PWL(0ps 0mv 200ps 0mv 201ps 2.068mv 202ps 0mv 300ps 0mv 301ps 2.068mv 302ps 0mv 400ps 0mv 401ps 2.068mv 402ps 0mv)


vb    14     0   PWL(0ps 0mV    50ps                  2.500mV)
*FIX
iblfb     0     8   PWL(0ps 0mV    50ps                  0.500mA)
*FIX

.tran 1ps 1400ps 0ps
.FILE CIRCUIT3155317.CSV

*.print devv B2.XI8  *set
*.print devv B2.XI10 *reset
*.print devv B2.XI2  *A
*.print devv B2.XI4  *B
*.print devv B2.XI6  *clk
*.print devv B1.XI11 *C


.print phase B1.XI0
.print phase B2.XI0
.print phase B5.XI0
.print phase B6.XI0
.print phase B7.XI0
.print phase B8.XI0
.print phase B11.XI0
.print phase B12.XI0
.print phase B13.XI0
.print phase B14.XI0
.print phase B15.XI0
.print phase B16.XI0
.print phase B17.XI0
.print phase B18.XI0
.print phase B19.XI0
.print phase B21.XI0
.print phase B22.XI0


.end
